US09403808B2
(S)-2-[(5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carbonyl)-amino]-3,3-dimethyl-butyric acid
To a solution of (S)-2-[(5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carbonyl)-amino]-3,3-dimethyl-butyric acid methyl ester (58 mg, 160 μmol) in THF (3 mL) was added lithium hydroxide (30 mg, 715 μmol) in water (1 mL) and the mixture was stirred at reflux temperature for 3 hours. After cooling the mixture was poured into water (10 mL), acidified with 1 N HCl (1 mL) and extracted with TBME. Organic phases were combined, dried with Na2SO4, filtered and concentrated in vacuo to give the title compound (61 mg, quant.) as white solid; LC-MS (UV peak area/ESI) 100%, 348.1920 (M+H).

reactant | (S)-2-[(5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carbonyl)-amino]-3,3-dimethyl-butyric acid methyl ester | 160 μmol, 58 mg | COC([C@H](C(C)(C)C)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1)=O | C19H27N3O4
reactant | lithium hydroxide | 715 μmol, 30 mg | [OH-].[Li+]
reactant | HCl | 1 N, 1 mL | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | (S)-2-[(5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carbonyl)-amino]-3,3-dimethyl-butyric acid | 61 mg | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)N[C@H](C(=O)O)C(C)(C)C | C18H25N3O4
